US05547954
A solution of 30.0 grams (0.174 mole) of 2,6-dichlorobenzonitrile and 14.7 mL (0.174 mole) of 2-methyl-2-propen-1-ol in 200 mL of dimethyl sulfoxide is stirred, and 12.7 grams (0.191 mole) of 85% potassium hydroxide is added portionwise during a 5 minute period. During the addition, the reaction mixture temperature rises from 20° C. to about 35° C. Upon completion of the addition, the reaction mixture is stirred at ambient temperature for about 18 hours. After this time the reaction mixture is poured into 600 mL of water. The mixture is filtered to collect a solid. The solid is washed with water and dried under vacuum, yielding 33.9 grams of 2-methyl-3-(3-chloro-2-cyanophenoxy)-1-propene. The NMR spectrum is consistent with the proposed structure.

reactant | 2,6-dichlorobenzonitrile | 0.174 mole, 30.0 grams | ClC1=C(C#N)C(=CC=C1)Cl | C7H3Cl2N
reactant | 2-methyl-2-propen-1-ol | 0.174 mole, 14.7 mL | CC(CO)=C | C4H8O
reactant | potassium hydroxide | 0.191 mole, 12.7 grams | [OH-].[K+]
reactant | water | 600 mL | O | H2O
solvent | dimethyl sulfoxide | 200 mL | CS(=O)C | C2H6OS
product | 2-methyl-3-(3-chloro-2-cyanophenoxy)-1-propene | 33.9 grams | CC(=C)COC1=C(C(=CC=C1)Cl)C#N | C11H10ClNO
